US09326987B2
N-[5-[4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide
To a solution of 6-bromo-4-{5-[(8aS)-hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole (100 mg, 0.184 mmol) was added N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide (72.5 mg, 0.221 mmol), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (36 mg, 0.049 mmol) and potassium phosphate tribasic (126 mg, 0.594 mmol). The mixture was heated under microwave irradiation at 100° C. for 20 mins. The mixture was passed through a 1 g silica SPE cartridge, washing with MeOH. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The residue was dissolved in DCM and added to the top of a 10 g silica SPE cartridge that was subsequently eluted with 0-15% MeOH/DCM over 20 mins. The product-containing fractions were combined and the solvent removed in vacuo to give the title compound as an orange oil (95 mg).

reactant | 6-bromo-4-{5-[(8aS)-hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole | 0.184 mmol, 100 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1C[C@H]2N(CC1)CCC2 | C23H23BrN6O3S
reactant | N-[2-(methyloxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]methanesulfonamide | 0.221 mmol, 72.5 mg | COC1=NC=C(C=C1NS(=O)(=O)C)B1OC(C(O1)(C)C)(C)C | C13H21BN2O5S
reactant | potassium phosphate tribasic | 0.594 mmol, 126 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.049 mmol, 36 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-[5-[4-{5-[(8aS)-Hexahydropyrrolo[1,2-a]pyrazin-2(1H)-ylmethyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]methanesulfonamide | 95 mg | C1[C@H]2N(CCN1CC1=NN=C(O1)C1=C3C=NN(C3=CC(=C1)C=1C=C(C(=NC1)OC)NS(=O)(=O)C)S(=O)(=O)C1=CC=CC=C1)CCC2 | C30H32N8O6S2
